US07087610B2
NaHMDS (0.77 ml, 1M in THF) was added into a solution of (R)-N-benzyl-3-methyl-N′-cyanomethylpiperazine (100 mg) and 2-cyano-5-methoxy-benzothiazole (58 mg) in THF (10 ml). The reaction was stirred for 10 hours. Then 4 ml of the reaction mixture was separated and quenched with MeOH. After solvents were removed under vaccum, the residue was purified using Shimadzu automated preparative HPLC System to give (R)-N-(benzoyl)-3-methyl-N′-[2-(5-methoxy-benzothiazol-2-yl)-2-imino-1-cyano-ethyl]-piperazine (1.3 mg).

reactant | NaHMDS | 1M, 0.77 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (R)-N-benzyl-3-methyl-N′-cyanomethylpiperazine | 100 mg | C(C1=CC=CC=C1)N1C[C@H](N(CC1)CC#N)C | C14H19N3
reactant | 2-cyano-5-methoxy-benzothiazole | 58 mg | C(#N)C=1SC2=C(N1)C=C(C=C2)OC | C9H6N2OS
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-N-(benzoyl)-3-methyl-N′-[2-(5-methoxy-benzothiazol-2-yl)-2-imino-1-cyano-ethyl]-piperazine | 1.3 mg | C(C1=CC=CC=C1)(=O)N1C[C@H](N(CC1)C(C(=N)C=1SC2=C(N1)C=C(C=C2)OC)C#N)C | C23H23N5O2S
